US04226878
Method F: Ethyl p-(1-imidazolylmethyl)cinnamate
A suspension of 1.75 g of silver salt of imidazole, which was prepared from imidazole and silver nitrate in a sodium hydroxide solution, and 2.7 g of ethyl p-bromomethylcinnamate in 50 ml of N,N-dimethylformamide was heated at 100° C. for 7 hours.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl p-bromomethylcinnamate | 2.7 g | BrCC1=CC=C(C=CC(=O)OCC)C=C1 | C12H13BrO2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | silver | 1.75 g | [Ag] | Ag
catalyst | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
product | Ethyl p-(1-imidazolylmethyl)cinnamate | N1C(=NC=C1)CC1=CC=C(C=CC(=O)OCC)C=C1 | C15H16N2O2
